US04749733
N-benzyl-N-(2-hydroxyoctyl)hydroxylamine
The procedure of Example 1 is repeated using 5.0 g of N-benzylhydroxylamine and 5.26 g octene-1-oxide in 20 ml of isopropanol. Purification by liquid chromatography affords the title compound in a 38% yield as a colorless oil.

reactant | N-benzylhydroxylamine | 5.0 g | C(C1=CC=CC=C1)NO | C7H9NO
reactant | octene-1-oxide | 5.26 g | CCCCC/C=C/C=O | C8H14O
reactant | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | N-benzyl-N-(2-hydroxyoctyl)hydroxylamine | 38% yield | C(C1=CC=CC=C1)N(O)CC(CCCCCC)O | C15H25NO2
